US04957928
3.03 g (35.2 mmol) of acrylic acid methyl ester are added to a solution of 2.61 g (16 mmol) of 3-aminomethylchroman in 20 ml of methanol. The reaction solution is stirred for 16 hours at 50° and, after cooling, is concentrated by evaporation in vacuo. 5.1 g (95%) of N,N-bis(2-methoxycarbonylethyl)-N-(chroman-3-ylmethyl)-amine are obtained in the form of a reddish oil.

reactant | acrylic acid methyl ester | 35.2 mmol, 3.03 g | COC(C=C)=O | C4H6O2
reactant | 3-aminomethylchroman | 16 mmol, 2.61 g | NCC1COC2=CC=CC=C2C1 | C10H13NO
solvent | methanol | 20 ml | CO | CH4O
product | N,N-bis(2-methoxycarbonylethyl)-N-(chroman-3-ylmethyl)-amine | 5.1 g, 95% | COC(=O)CCN(CC1COC2=CC=CC=C2C1)CCC(=O)OC | C18H25NO5
